US09145354B2
To a solution of tert-butyl 3-{[(1S)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}-propyl]carbamoyl}piperidine-1-carboxylate (220 mg, 0.44 mmol) in DCM (3 mL) was added 4M HCl in dioxane (0.44 mL, 1.75 mmol, 4 eq) and the reaction stirred for 18 h. The mixture was concentrated and then triturated with diethyl ether (˜5 mL) and the pale green solid filtered off and dried in a vacuum oven to give N-[(1S)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]piperidine-3-carboxamide as a white solid (80.0 mg).

reactant | tert-butyl 3-{[(1S)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}-propyl]carbamoyl}piperidine-1-carboxylate | 0.44 mmol, 220 mg | ClC1=C(C(=C(C=C1)[C@H](CC)NC(=O)C1CN(CCC1)C(=O)OC(C)(C)C)F)C(=O)C=1C=NC=CC1 | C26H31ClFN3O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 1.75 mmol, 0.44 mL, 4 eq | O1CCOCC1 | C4H8O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | N-[(1S)-1-{4-chloro-2-fluoro-3-[(pyridin-3-yl)carbonyl]phenyl}propyl]piperidine-3-carboxamide | 80.0 mg | ClC1=C(C(=C(C=C1)[C@H](CC)NC(=O)C1CNCCC1)F)C(=O)C=1C=NC=CC1 | C21H23ClFN3O2
